US04297499
Resultant n-octadecyldichlorosilane in an amount of 176.5 g (0.5 mol), 50.4 g of 1-hexane (0.6 mol) and 0.05 mol % of a H2PtCl2 ·6H2O solution in isopropanol (relative to n-octadecyldichlorosilane) were reacted in a flask with stirring at 50° C. for 25 hours to give n-hexyloctadecyldichlorosilane [(n--C6H13)(n--C18H37)SiCl2 ].

reactant | n-octadecyldichlorosilane | C(CCCCCCCCCCCCCCCCC)[SiH](Cl)Cl | C18H38Cl2Si
reactant | 1-hexane | 0.6 mol, 50.4 g | CCCCCC | C6H14
solvent | isopropanol | C(C)(C)O | C3H8O
product | n-hexyloctadecyldichlorosilane | C(CCCCC)[Si](Cl)(Cl)CCCCCCCCCCCCCCCCCC | C24H50Cl2Si
